US07326788B2
6-Chloro-4-phenyl-3-thiophen-2-yl-1H-quinolin-2-one
from thiophen-2-yl acetic acid and (2-amino-5-chloro-phenyl)-phenyl-methanone according to general procedure 2. Yield 55%.

reactant | thiophen-2-yl acetic acid | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
product | 6-Chloro-4-phenyl-3-thiophen-2-yl-1H-quinolin-2-one | Yield 55% | ClC=1C=C2C(=C(C(NC2=CC1)=O)C=1SC=CC1)C1=CC=CC=C1 | C19H12ClNOS
